US07034039B2
A suspension of tert-butyl[6-benzyloxy-2-isobutyl-1-oxo-4-(4,4,4-trifluorobutoxy)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (3.09 g, 5.5 mmol) and 5% palladium carbon (1.0 g) in tetrahydrofuran (20 mL) and ethanol (20 mL) was stirred under a hydrogen atmosphere at room temperature for 2 h. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl[6-hydroxy-2-isobutyl-1-oxo-4-(4,4,4-trifluorobutoxy)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (2.48 g, 95.4%) as crystals.

reactant | tert-butyl[6-benzyloxy-2-isobutyl-1-oxo-4-(4,4,4-trifluorobutoxy)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 5.5 mmol, 3.09 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC(F)(F)F)OCC1=CC=CC=C1)=O)CC(C)C)=O | C30H37F3N2O5
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium carbon | 1.0 g | [C].[Pd]
product | tert-butyl[6-hydroxy-2-isobutyl-1-oxo-4-(4,4,4-trifluorobutoxy)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 2.48 g, 95.4% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC(F)(F)F)O)=O)CC(C)C)=O | C23H31F3N2O5
